US07378427B2
4-[(S)-8-Fluoro-6-methyl-6H-phenanthridine-5-sulfonyl]-phenol
(S)-8-Fluoro-5-(4-methoxy-benzenesulfonyl)-6-methyl-5,6-dihydrophenanthridine (1.26 g, 3.29 mmol) was suspended in cyclohexene (6.0 mL, 59 mmol). Boron tribromide (20 mL, 1.0 M solution in dichloromethane) was added dropwise at room temperature. The solution was stirred for 20 hours. A solution of saturated, aqueous sodium bicarbonate (300 mL) was added dropwise and then the mixture was extracted with dichloromethane (6×20 mL). The combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The crude material was purified by silica gel flash chromatography (1:19 to 1:4 ethyl acetate:hexane) and then recrystallization (dichloromethane-hexane) to afford the title compound as white crystals (1.1 g, 90%), m.p. 193° C.

reactant | (S)-8-Fluoro-5-(4-methoxy-benzenesulfonyl)-6-methyl-5,6-dihydrophenanthridine | 3.29 mmol, 1.26 g | FC=1C=C2[C@@H](N(C=3C=CC=CC3C2=CC1)S(=O)(=O)C1=CC=C(C=C1)OC)C | C21H18FNO3S
reactant | cyclohexene | 59 mmol, 6.0 mL | C1=CCCCC1 | C6H10
reactant | Boron tribromide | 1.0 M, 20 mL | B(Br)(Br)Br | BBr3
solvent | sodium bicarbonate | 300 mL | C([O-])(O)=O.[Na+]
product | 4-[(S)-8-Fluoro-6-methyl-6H-phenanthridine-5-sulfonyl]-phenol | 1.1 g, 90% | FC=1C=C2[C@@H](N(C=3C=CC=CC3C2=CC1)S(=O)(=O)C1=CC=C(C=C1)O)C | C20H16FNO3S
